US05977105
b) 2-(4-Hydroxyphenyl)thiazole
Prepared according to the method described in Example 36b) from 2-(4-methoxyphenyl)thiazole (1.7 g), dichloromethane (20 ml) and boron tribromide (1.0 M in dichloromethane, 17.8 ml) with stirring at -78° C. After work up the residue was triturated with ether to give the sub-title compound a pale yellow solid (1.2 g).

reactant | 2-(4-methoxyphenyl)thiazole | 1.7 g | COC1=CC=C(C=C1)C=1SC=CN1 | C10H9NOS
reactant | boron tribromide | 1.0 M, 17.8 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-Hydroxyphenyl)thiazole | OC1=CC=C(C=C1)C=1SC=CN1 | C9H7NOS
